US05929082
2,6-dibromopyridine-N-oxide (6.28 g) was dissolved in concentrated sulphuric acid (20 ml) with stirring. A mixture of concentrated sulphuric acid (20 ml) and concentrated nitric acid (10 ml) was then continuously added dropwise. The solution was then heated at 90° C. for 3 hours with stirring, poured onto ice and then basified with sodium hydroxide. The solution was then continuously extracted with ether, and recrystallised from ethanol to give pale yellow leaflets of 4-nitro-2,6-dibromopyridine-N-oxide (1.2 g, 16%), m.p. 222° C.-224° C.

reactant | 2,6-dibromopyridine-N-oxide | 6.28 g | BrC1=[N+](C(=CC=C1)Br)[O-] | C5H3Br2NO
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-nitro-2,6-dibromopyridine-N-oxide | 1.2 g, 16% | [N+](=O)([O-])C1=CC(=[N+](C(=C1)Br)[O-])Br | C5H2Br2N2O3
